US08097622B2
2-{4-[2-(2-Aminopyrimidin-5-yl)-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-8-yl]-2,2-dimethylpiperazin-1-yl}-2-oxoethanol
Triethylamine (63.1 μl, 0.45 mmol) was added to a methylene chloride solution (3.0 ml) of 5-[8-(3,3-dimethylpiperazin-1-yl)-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl]pyrimidin-2-amine (101.3 mg, 0.21 mmol) at room temperature followed by the addition of acetoxyacetyl chloride (27.4 μl, 0.25 mmol) with ice cooling. The resulting mixture was stirred at room temperature for 1 hour followed by the addition of triethylamine (17.2 μl, 0.13 mmol) and acetoxyacetyl chloride (6.8 μl, 0.06 mmol) with ice cooling and the resulting mixture was further stirred at room temperature for 16 hours. The reaction mixture was poured into methylene chloride-methanol (10:1), washed with saturated aqueous sodium hydrogen carbonate solution, and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure, a 25% by weight sodium methoxide-methanol solution (94.1 μl, 0.41 mmol) was added to a methanol-tetrahydrofuran (3:1) mixture solution (8.0 ml) of the resulting residue, and the resulting mixture was stirred at room temperature for 17 hours. The reaction mixture was poured into methylene chloride and washed with water and the organic layer was dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure and the resulting residue was purified by preparative thin layer silica gel chromatography (methylene chloride:methanol=10:1) to give the title compound (94.2 mg, 83%) as a pale yellow solid.

reactant | Triethylamine | 0.45 mmol, 63.1 μl | C(C)N(CC)CC | C6H15N
reactant | 5-[8-(3,3-dimethylpiperazin-1-yl)-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl]pyrimidin-2-amine | 0.21 mmol, 101.3 mg | CC1(CN(CCN1)C=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)CC(F)(F)F)C | C21H27F3N10O
reactant | acetoxyacetyl chloride | 0.25 mmol, 27.4 μl | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | triethylamine | 0.13 mmol, 17.2 μl | C(C)N(CC)CC | C6H15N
reactant | acetoxyacetyl chloride | 0.06 mmol, 6.8 μl | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | sodium methoxide methanol | 0.41 mmol, 94.1 μl | C[O-].[Na+].CO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methanol tetrahydrofuran | CO.O1CCCC1
solvent | methylene chloride methanol | C(Cl)Cl.CO
solvent | methylene chloride | 3.0 ml | C(Cl)Cl | CH2Cl2
product | 2-{4-[2-(2-Aminopyrimidin-5-yl)-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-8-yl]-2,2-dimethylpiperazin-1-yl}-2-oxoethanol | 94.2 mg, 83% | NC1=NC=C(C=N1)C1=NC(=C2N=C(N(C2=N1)CC(F)(F)F)N1CC(N(CC1)C(CO)=O)(C)C)N1CCOCC1 | C23H29F3N10O3
